US05789405
To a solution of 6-cyclohexylcarbamoyloxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (20 mg) in a mixture of methanol (0.1 ml) and dichloromethane (5 ml) was passed through ozone at -78° C. for 3 minutes. Nitrogen was bubbled into the solution at the same temperature to remove excess ozone. The solvents were evaporated and the residue was dissolved in methanol (2 ml). To the solution was added sodium borohydride (10 mg) in one portion at 5° C. The mixture was stirred at 5° C. for 10 minutes and then concentrated in vacuo. The residue was dissolved in dichloromethane (20 ml), washed with brine, dried, and evaporated. The crude oil was purified by column chromatography on silica gel eluted with diethyl ether to yield 6-cyclohexylcarbamoyloxy-4-[3-(2-hydroxyethyl)-2-methyloxiranyl]-5-methoxy-1-oxaspiro[2,5]-octane (11.6 mg).

reactant | 6-cyclohexylcarbamoyloxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 20 mg | C1(CCCCC1)NC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C23H37NO5
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | 0.1 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-cyclohexylcarbamoyloxy-4-[3-(2-hydroxyethyl)-2-methyloxiranyl]-5-methoxy-1-oxaspiro[2,5]-octane | 11.6 mg | C1(CCCCC1)NC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CCO)C)OC | C20H33NO6
